US06414148B1
Diethyl azodicarboxylate (1.55 ml, 9.89 mmol), 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (1.2g, 3.3 mmol), (prepared as described for the starting material in Example 48), and a solution of (E)-4-(pyrrolidin-1-yl)but-2-en-1-ol (697 mg, 4.9 mmol), (prepared as described for the starting material in Example 17), in methylene chloride (5 ml) were added successively to a solution of triphenylphosphine (2.59 g, 9.89 mmol) in methylene chloride (150 ml) cooled at 5° C. The mixture was stirred at ambient temperature for 10 minutes then methylene chloride (100 ml) was added followed successively by triphenylphosphine (432 mg, 1.6 mmol), (E)-4-(pyrrolidin-1-yl)but-2-en-1-ol (232 mg, 1.6 mmol) and diethyl azodicarboxylate (246 μl, 1.6 mmol). The mixture was stirred at ambient temperature for 30 minutes and then the solvent was removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (8/2 followed by 7/3 and 6/4). The semi-purified product was repurified by column chromatography eluting with methylene chloride/methanol (8/2 followed by 7.5/2.5). The purified product was dissolved in methylene chloride, 3.7M ethereal hydrogen chloride (3 ml) was added and the volatiles were removed by evaporation. The residue was triturated with ether, collected by filtration and dried under vacuum to give (E)-4-(4-bromo-2-fluoroanilino)-6-methoxy-7-(4-pyrrolidin-1-ylbut-2-en-1-yloxy)quinazoline hydrochloride (600 mg, 32%).

reactant | Diethyl azodicarboxylate | 9.89 mmol, 1.55 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 3.3 mmol, 1.2g | BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11BrFN3O2
reactant | (E)-4-(pyrrolidin-1-yl)but-2-en-1-ol | 4.9 mmol, 697 mg | N1(CCCC1)C/C=C/CO | C8H15NO
reactant | triphenylphosphine | 9.89 mmol, 2.59 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 1.6 mmol, 432 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (E)-4-(pyrrolidin-1-yl)but-2-en-1-ol | 1.6 mmol, 232 mg | N1(CCCC1)C/C=C/CO | C8H15NO
reactant | diethyl azodicarboxylate | 1.6 mmol, 246 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (E)-4-(4-bromo-2-fluoroanilino)-6-methoxy-7-(4-pyrrolidin-1-ylbut-2-en-1-yloxy)quinazoline hydrochloride | 600 mg, 32% | Cl.BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC\C=C\CN2CCCC2)C=C1)F | InChI=1S/C23H24BrFN4O2.ClH/c1-30-21-13-17-20(14-22(21)31-11-5-4-10-29-8-2-3-9-29)26-15-27-23(17)28-19-7-6-16(24)12-18(19)25;/h4-7,12-15H,2-3,8-11H2,1H3,(H,26,27,28);1H/b5-4+;
